US07582769B2
3-[2-(3,3-Dicyclohexyl-ureido)-thiazol-4-ylmethylsulfanyl]-propionic acid
Prepared in accordance with the procedure for the synthesis of {2-[3-cyclopentyl-3-(trans-4-methoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid using dicyclohexylamine and 3-(2-amino-thiazol-4-ylmethylsulfanyl)-propionic acid ethyl ester prepared in analogy to the methyl ester described in WO 2004/002481).

reactant | {2-[3-cyclopentyl-3-(trans-4-methoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | C1(CCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)[C@@H]1CC[C@H](CC1)OC | C18H27N3O4S2
reactant | dicyclohexylamine | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | 3-(2-amino-thiazol-4-ylmethylsulfanyl)-propionic acid ethyl ester | C(C)OC(CCSCC=1N=C(SC1)N)=O | C9H14N2O2S2
product | 3-[2-(3,3-Dicyclohexyl-ureido)-thiazol-4-ylmethylsulfanyl]-propionic acid | C1(CCCCC1)N(C(NC=1SC=C(N1)CSCCC(=O)O)=O)C1CCCCC1 | C20H31N3O3S2
